US07994211B2
c. (1S,4S,7S)-5-Bromo-7-{[9-(tert-butyl-dimethyl-silanyloxy)-nonyl]-methyl-amino}-bicyclo[2.2.1]heptan-2-one.
To a solution of (1S)-2,3-dibromo-bicyclo[3.2.0]heptan-6-one (2.15 g, 8.02 mmol) in acetone (20 mL) was added [9-(tert-butyl-dimethyl-silanyloxy)-nonyl]-methyl-amine (5.77 g, 12.3 mmol) and the reaction mixture was stirred at RT for 3 days. After evaporation of the solvent the residue was taken up in diethyl ether/ethyl acetate and washed with a satd NaHCO3 (aq)/brine mixture. The aqueous layer was extracted with diethyl ether. The combined organic layers were dried (Na2SO4), filtered, and concentrated to dryness to afford a dark brown oil, which was purified by column chromatography over silica gel using a gradient of 5-15% diethyl ether/pentane as eluent. After evaporation of the volatiles the title compound was obtained as a light yellow/brown oil.

reactant | (1S)-2,3-dibromo-bicyclo[3.2.0]heptan-6-one | 8.02 mmol, 2.15 g | BrC1[C@H]2CC(C2CC1Br)=O | C7H8Br2O
reactant | [9-(tert-butyl-dimethyl-silanyloxy)-nonyl]-methyl-amine | 12.3 mmol, 5.77 g | C(C)(C)(C)[Si](OCCCCCCCCCNC)(C)C | C16H37NOSi
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | (1S,4S,7S)-5-Bromo-7-{[9-(tert-butyl-dimethyl-silanyloxy)-nonyl]-methyl-amino}-bicyclo[2.2.1]heptan-2-one | BrC1[C@H]2CC([C@@H](C1)[C@@H]2N(C)CCCCCCCCCO[Si](C)(C)C(C)(C)C)=O | C23H44BrNO2Si
